### PR TITLE
[Merged by Bors] - feat(MeasureTheory): absolute continuity preserved by Lipschitz postcomposition

### PR DESCRIPTION
**Pull request by deancureton**
Adds `LipschitzOnWith.comp_absolutelyContinuousOnInterval` and its global `LipschitzWith` specialization.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/AbsolutelyContinuous.lean [hunk 1]
```diff
@@ -308,6 +308,29 @@ theorem _root_.LipschitzOnWith.absolutelyContinuousOnInterval {f : ℝ → X} {K
...
 
+/-- If `f` is Lipschitz on a set containing `g '' uIcc a b` and `g` is absolutely continuous on
+`uIcc a b`, then `f ∘ g` is absolutely continuous on `uIcc a b`. -/
+theorem _root_.LipschitzOnWith.comp_absolutelyContinuousOnInterval
+    {Y : Type*} [PseudoMetricSpace Y] {f : X → Y} {K : ℝ≥0} {t : Set X}
+    (hf : LipschitzOnWith K f t) {g : ℝ → X} {a b : ℝ} (hg : MapsTo g (uIcc a b) t)
+    (h : AbsolutelyContinuousOnInterval g a b) :
+    AbsolutelyContinuousOnInterval (f ∘ g) a b := by
+  apply squeeze_zero' ?_ ?_ (by simpa using Tendsto.const_mul (K : ℝ) h)
+  · exact Filter.Eventually.of_forall <| fun _ ↦ Finset.sum_nonneg fun _ _ ↦ dist_nonneg
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/AbsolutelyContinuous.lean]:
```suggestion
  · exact .of_forall fun _ ↦ by positivity
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
maintainer delegate

**Review by j-loreaux — COMMENTED** [review]
thanks!

bors d+

**Comment by deancureton** [comment]
thanks everyone!
bors r+
